Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
CC: Fall, ___ Hematoma, Herniation
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 Mr. ___ (EU Critical ___, with past history of 
alcohol abuse, hyperlipidemia, neuropathy, now presenting as a 
transfer from ___ for cerebral herniation. History 
obtained from notes as patient is intubated, sedated and 
minimally responsive. 

Patient resides at home with his wife, and in the evening while 
patient was in the kitchen, patient fell. His wife was in the 
other room, and heard a very loud noise as he presumably hit the 
floor. She has a table and another smaller table in the kitchen 
that he may have struck his head on. She then called ___, and 
EMS brought him to ___. While at ___ 
___, patient underwent a CT head with stroke protocol which 
showed an acute extensive right cerebral hemispheric subdural 
hematoma causing sub-falcine herniation to the left, probable 
trans-tentorial herniation causing brainstem edema. Also CT head 
demonstrated a left sided obstructive hydrocephalus, no evidence 
of skull fracture. At ___, paitnt was noted to be 
posturing to his left side on the kitchen floor, and was able to 
alert to name when EMS had arrived. On EMS sheet, pupil on right 
side is fixed and dilated, left sided is sluggish to respond. 
Given neurosurgery referral, patient transferred to ___. 
Patient was given mannitol 20% 250ml prior to transfer.

Upon arrival to ___, patient was evaluated by neurosurgery. 
Given evidence of herniation at this point, and patient already 
given mannitol, no acute surgical intervention would be able to 
reverse his current condition. Upon evaluation at ___, pupils 
were both non-reactive, corneal was very weak on the right, + 
gag. Patient had no movement in the right upper extremity, and 
posturing in the left upper extremity, with + Babinksi. 

Of note, patient does have a strong history of drinking alcohol 
(vodka), and has been drinking heavily over the past few months. 
He does not take any other medications. 

In the ED, initial vitals: Not charted. 

Patient was given: 
___ 20:31 IV DRIP Propofol 
___ 20:31 IV DRIP Fentanyl Citrate
___ 20:31 IV LevETIRAcetam 1000 mg 
___ 20:44 IV DRIP Fentanyl Citrate 

Labs were notable for: 
1. WBC 7.5, Hgb 12, Hct 33.5, Platelet 90
BUN 11, Creatinine 0.8. 

Urinalysis notable for ketones 10, Spec ___ 1019.
VBG: 7.33 / 36 / 57  / 20
Na 128, K 3.2, CL 89, Glucose 189, Free calcium 0.89, Lactate 
2.6, Hemoglobin 13.5. O2 Sat 82. 

Urine toxicology screen: Negative.

On arrival to the MICU, patient is intubated and sedated. 

 
Past Medical History:
1. Alcohol Abuse 
2. Hyperlipidemia
3. Lower Extremity Neuropathy
 
 
Social History:
___
Family History:
Non-contributory. 
 
Physical Exam:
>> Admission PHysical Exam: 
Vitals: See Metavision.  
GENERAL: Intubated, sedated. 
HEENT: Pupils 3 mm bilaterally, non-reactive, no corneal reflex. 
There is sweating around forehead. 
CV: RRR, S1, S2. No extra sounds heard. 
Lungs: diminished at bases, no adventitial sounds heard. 
Abdomen: Soft, NT/ND. 
EXT: Warm, no lower extremity edema  
NEURO: Pupils 3mm, non reactive bilaterally. No corneal reflex 
bilaterally. + gag. Babinski upgoing. 
.
>> Discharge Physical Exam: 
Vitals: See Metavision.  
GENERAL: Intubated, sedated. 
HEENT: Pupils 3 mm bilaterally, non-reactive, no corneal reflex. 
There is sweating around forehead. 
CV: RRR, S1, S2. No extra sounds heard. 
Lungs: diminished at bases, no adventitial sounds heard. 
Abdomen: Soft, NT/ND. 
EXT: Warm, no lower extremity edema  
NEURO: Pupils 3mm, non reactive bilaterally. No corneal reflex 
bilaterally. + gag. Babinski upgoing. 
 
Pertinent Results:
>> Pertinent Labs: 
___ 08:00PM BLOOD WBC-7.5 RBC-3.50* Hgb-12.0* Hct-33.5* 
MCV-96 MCH-34.3* MCHC-35.8 RDW-11.7 RDWSD-40.7 Plt Ct-90*
___ 04:55AM BLOOD Plt Ct-79*
___ 08:00PM BLOOD Plt Smr-LOW Plt Ct-90*
___ 08:00PM BLOOD ___ PTT-26.2 ___
___ 04:55AM BLOOD Glucose-148* UreaN-16 Creat-1.8* Na-137 
K-3.7 Cl-87* HCO3-24 AnGap-30*
___ 08:00PM BLOOD ALT-84* AST-114* AlkPhos-68 TotBili-1.5
___ 04:55AM BLOOD ALT-83* AST-108* AlkPhos-68 TotBili-1.2
___ 04:55AM BLOOD Calcium-7.8* Phos-1.8* Mg-1.8
___ 08:21PM BLOOD pO2-57* pCO2-36 pH-7.33* calTCO2-20* Base 
XS--6
___ 08:21PM BLOOD Glucose-189* Lactate-2.6* Na-128* K-3.2* 
Cl-89*
.
>> Pertinent Imaging: 
CT Head: 
1. Acute extensive right cerebral hemispheric subdural hematoma 
causing subfalcine herniation to the left, probable 
transtentorial herniation, causing brainstem edema. 
2. Left sided obstructive hydrocephalus is seen.
3. No evidence of skull fracture is seen
4. No evidence of space occupying lesion could be found
5. The current plain CT scan of the brain shows no diagnostic 
evidence of acute cerebral infarction. 
6. Left Occipital scalp acute hematoma is also present. 
 
Brief Hospital Course:
Mr. ___ is a ___ year old male, with past history of 
alcohol abuse, presenting with alcohol intoxication now s/p 
fall, with subdural hemorrhage and cerebral herniation. 
.
>> ACTIVE ISSUES: 
# Subdural Hemorrhage c/b cerebral herniation: Per family 
report, patient initially was found after fall, with alcohol 
level positive. Initial EMS reports on scene documented loss of 
some cranial nerve reflexes, and upon arrival to ___ 
___ patient was noted on CT scan to have subdural 
hemorrhage, with imaging evidence of sub-falcine herniation, 
transtentorial herniation and concern for an obstructive 
hydrocephalus. For this, patient was intubated, sedated, and 
transferred to ___ for neurosurgical evaluation. Patient was 
evaluated in the ED and given grave prognosis and irreversible 
outcome with cerebral herniation and examination, no surgical 
intervention could be offered. Patient was then admitted to the 
MICU for further evaluation. Goals of care on arrival included 
that patient would not have wanted to continue care, and family 
elected to terminally extubate patient pending other family 
members arrival. ___ Organ bank was contacted, and 
discussed with family elected not to donate organs. Patient was 
then terminally extubated in the morning of ___ with family at 
bedside, and was pronounced dead at 9:05 AM. Given that patient 
was intoxicated, case was referred to the medical examiner 
office and was accepted for review. 
 
Medications on Admission:
None
 
Discharge Medications:
Expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 1. Subdural Hemorrhage  2. Cerebral 
Herniation
 
Discharge Condition:
Expired
 
Discharge Instructions:
Expired
 
Followup Instructions:
___